US07429605B2
2-[3-Methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-6-(4-trifluoromethyl-phenyl)-pyridine
16 mg (0.39 mmol) of 95% sodium hydride were added at 0° C. to a solution of 86 mg (0.37 mmol) 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenol in 4.0 ml N,N-dimethylformamide and stirred for 30 min. at 0° C. 100 mg (0.37 mmol) 2-chloromethyl-6-(4-trifluoromethyl-phenyl)-pyridine were given to the reaction mixture and stirring continued at r.t overnight. After addition of 8 ml water the mixture was stirred for 1 h, the formed precipitate isolated by filtration, washed with water, methanol/water 1:1, and a small amount of ether. The residue was dried at 40° C. to give 145 mg (84%) of the title compound as white powder.

reactant | sodium hydride | 0.39 mmol, 16 mg | [H-].[Na+]
reactant | 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenol | 0.37 mmol, 86 mg | CC=1C=C(C=CC1CCCCN1N=NC=C1)O | C13H17N3O
reactant | 2-chloromethyl-6-(4-trifluoromethyl-phenyl)-pyridine | 0.37 mmol, 100 mg | ClCC1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C13H9ClF3N
reactant | water | 8 ml | O | H2O
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
product | 2-[3-Methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-6-(4-trifluoromethyl-phenyl)-pyridine | 145 mg, 84% | CC=1C=C(OCC2=NC(=CC=C2)C2=CC=C(C=C2)C(F)(F)F)C=CC1CCCCN1N=NC=C1 | C26H25F3N4O
